OP-AMP passband

.inc uA741.inc

.options savecurrents

Vcc vcc 0 10.0
Vee vee 0 -10.0
Vin vin 0 0 

X1 in_p inv_in vcc vee out uA741

* non-inv +
C1 vin in_p 220n
R1 in_p 0 1k

* inv -
R3 inv_in r3b 100k
R3b r3b out 100k
R3c r3b out 100k

R4 inv_in 0 1k

* load
R2 out vo 1k
C2 vo 0 110n
Vout vo 0 0 ac 1.0 sin(0 700m 1k)

.op
.end

.control

*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0


* frequency analysis
ac dec 10 10 100k
*plot vdb(out)
*plot vp(out)
hardcopy lab-vo1f.ps vdb(vo)

echo ""
echo "*****************"
echo "* impedance ohm *"
echo "*****************"
*input impedance in ohm
print abs(v(vo)[20]/vout#branch[20]/(-1))



quit
.endc 

